Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left hand hematoma, concern for compartment syndrome
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with Alzheimer dementia and 
AFib/A-flutter on sotalol and rivaroxaban who presented to the 
___ ___ with worsening left hand swelling after an injury 
sustained a few days prior. 

Early on the morning of ___, Mr. ___ presumably 
banged his left hand in the bathroom. His wife reported that he 
went in the bathroom and when he came out his hand started to 
swell, but he was unable to verbalize what had happened. At this 
point, patient went to ___ where he had negative hand 
films and was splinted. Swelling was thought to be due to 
extensive subcutaneous bleeding in the setting of rivaroxaban 
anticoagulation (last dose was ___ in the morning). He 
was discharged with instructions to elevate the LUE and continue 
to hold rivaroxaban. 

Unfortunately, patient unable to keep extremity wrapped and 
elevated and had worsening swelling and pain. He returned to 
___ where they noted progressive swelling and diffuse left 
hand to mid-left forearm ecchymosis with overlying blistering 
and bleeding. Reportedly, patient was not having pain in left 
hand at rest, but he was unable to flex the digits. Given 
concern for possible compartment syndrome, he was referred to 
___ for further evaluation.

Of note, he has been on Sotalol for rhythm control as prescribed 
by his cardiologist for a long time, but only recently started 
anticoagulation with rivaroxaban, which was prescribed by his 
PCP ___ weeks prior to the current admission.  

In the ___ ___, initial vitals were: T 97.6, HR 76, BP 181/98, 
RR 18, O2 96% RA. 

- Exam notable for: L hand edema and ecchymosis w/ overlying 
taut serous vesicles over dorsal and palmar aspects; patient 
unable to flex digits beyond ___ degrees. LUE distal sensation 
intact.
 
- Labs notable for: WBC=9.3, H/H=13.0/41.2, Plt=155 with 
INR=1.2. 
Chemistry panel wnl except for phos=2.6.

- Patient was given: Olanzapine 5mg PO for agitation

Hand surgery was consulted and determined no need for emergent 
surgical intervention. Recommended admission to medicine with 
q.2H assessments for the LUE and re-evaluation for surgical need 
in the morning.

Upon arrival to the floor, patient is minimally verbally but 
reasonably calm and comfortable.

 
Past Medical History:
- Atrial flutter/A-fib, on Sotalol and Xarelto
- Alzheimer's dementia  
- Hyperlipidemia  
 
Social History:
___
Family History:
Denies FHx of heart disease.
Half-brother (via mother) with CVA.
 
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vital Signs: T 98.6F | HR 69 | BP 176/72 | RR 20 | O2 93% RA
General: Alert, disoriented, minimally verbal. No acute distress 
but writhing when LUE manipulated.   
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL. 
Neck: Supple. JVP not elevated.  
CV: Irregular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops. 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: B/L Lower Ext Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema.
Left UE wrapped with gauze and ACE, some blood seeping through 
gauze. Fingertips dusky. ___ fingers cool to touch, not 
cold. Thumb warmer, pinker. Thumb pad pulse dopplerable. 
Tenderness to palpation and manipulation of all fingers.  
Neuro: CNII-XII grossly intact. Strength grossly intact in 
upper/lower extremities. Gait deferred.  

=======================
DISCHARGE PHYSICAL EXAM
=======================
Vital Signs: T 97.6 F | BP 131/83 | HR 76 | RR 16 | O2 96% RA
General: Alert, disoriented, verbal. 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL. 
CV: Irregular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops. 
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present 
GU: No foley  
Ext: B/L Lower Ext Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema.
Neuro: CNII-XII grossly intact. Strength grossly intact in arms. 
Able to move legs.  
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 03:50PM BLOOD WBC-9.3 RBC-4.48* Hgb-13.0* Hct-41.2 
MCV-92 MCH-29.0 MCHC-31.6* RDW-13.5 RDWSD-45.5 Plt ___
___ 03:50PM BLOOD Neuts-74.7* Lymphs-12.1* Monos-9.3 
Eos-3.1 Baso-0.5 Im ___ AbsNeut-6.94* AbsLymp-1.13* 
AbsMono-0.87* AbsEos-0.29 AbsBaso-0.05
___ 03:50PM BLOOD ___ PTT-25.8 ___
___ 03:50PM BLOOD Glucose-99 UreaN-16 Creat-0.9 Na-141 
K-4.4 Cl-104 HCO3-23 AnGap-18
___ 03:50PM BLOOD Calcium-9.3 Phos-2.6* Mg-2.1

=========================
DISCHARGE LABS
=========================
___ 07:50AM BLOOD WBC-10.1* RBC-4.24* Hgb-12.6* Hct-38.9* 
MCV-92 MCH-29.7 MCHC-32.4 RDW-14.0 RDWSD-46.8* Plt ___
___ 07:50AM BLOOD Glucose-97 UreaN-17 Creat-0.9 Na-141 
K-4.2 Cl-107 HCO3-18* AnGap-20
=========================
IMGAGING/STUDIES
=========================
___ EKG: 
Atrial flutter with 4:1 conduction. Abnormal R wave transition 
which may be due to lead positioning. No previous tracing 
available for comparison.
 
Read ___.
 Intervals  Axes
RatePRQRSQTQTc ___
69 ___ ___ CXR IMPRESSION: 
No previous images.  Relatively low lung volumes are 
accentuating the
prominence of the transverse diameter of the heart no vascular 
congestion, pleural effusion, or acute focal pneumonia.
 

 
Brief Hospital Course:
___ with A-fib/flutter on Xarelto, Alzheimer's dementia 
presented from ___ for Hand Surgery eval with large left 
arm hematoma. After serial evaluations, he was determined to not 
have a compartment syndrome, and was discharged with wound care 
after stopping xarelto.
 
ACTIVE ISSUES:
# Left hand injury with hematoma:
Swelling and pain secondary to bleeding. Evaluated by Hand 
Surgery serialy who deemed no role for surgical intervention. 
Pain improved during stay. Plan for ongoing wound care with 
daily dressing changes, continued elevation and splinting. 
Decision to discontinue xarelto due to involvement risk benefit 
to patient.

# A-fib/A-Flutter:
Started on Xarelto by his cardiologist Dr. ___ at the 
beginning of the year which was discontined at the time of the 
initial injury. On sotalol 40 mg BID chronically, however per 
most recent cardiologist note it was discontinued in ___ as 
was in flutter but rate normal without symptoms. Patient was 
initially started on metoprolol 12.5mg TID for rate control. 
However soon became bradycardic to 50's with frequent ___ second 
pauses. Metoprolol discontinued and HR stable in 80-90's at 
discharge.

# Alzheimer's dementia:
Per wife, dementia has recently worsened precipitously. Had one 
episode of aggition treated with olanzipine. Continued home 
Donepizil and memantine once more settled.

CHRONIC ISSUES:
# BPH: Continued home doxasosin

===================== 
TRANSITIONAL ISSUES
=====================
- Xarelto discontinued given complications and ongoing bleeding 
risk
- Sotalol discontinued given patient assymptomatic and per most 
recent cardiologist note
- Hand should be splinted with daily dressing changes using 
xeroform and gauze and elevated as much as possible
- Follow up with ___ Fellow Hand clinic in 2 weeks for further 
evaluation
- Patient is DNR/DNI

# CODE: DNR/DNI
# CONTACT:  ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 2 mg PO HS 
2. Donepezil 10 mg PO DAILY 
3. Sotalol 40 mg PO BID 
4. Memantine 10 mg PO BID 
5. Simvastatin 20 mg PO QPM 
6. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Donepezil 10 mg PO DAILY  
3.  Doxazosin 2 mg PO HS  
4.  Memantine 10 mg PO BID  
5.  Simvastatin 20 mg PO QPM  
6. HELD- Sotalol 40 mg PO BID  This medication was held. Do not 
restart Sotalol until told to restart it by your cardiologist

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
==========================
PRIMARY DIAGNOSIS
==========================
Left Hand Hematoma
==========================
SECONDARY DIAGNOSIS
==========================
Atrial Flutter
Delirium
Alzheimer Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were seen in the hospital for your hand injury. It was 
determined that the bleeding was just into the superficial 
tissues of the hand, and that it can now be safely managed with 
wound care.

For ongoing care of your hand you should do the following until 
your follow up appointment.
- Keep the hand elevated at or above the level of your heart as 
much as possible
- Wear the splint at all times and do not get it wet If you 
shower it should be covered with a plastic bag. If you bathe it 
should be kept out of the water.
- You should do dressing changes once daily with xerofoam and 
___ per wound care recommendations.

Please follow up in hand clinic in two weeks.

In addition to your hand, two medications have been held. Your 
blood thinner is being held as your risk of bleeding is high at 
this time. Your sotalol is also being held as your cardiologist 
most recently recommended stopping it in his notes. It was 
stopped here without issues.

It was a pleasure taking care of you!

Sincerely,
Your ___ Healthcare Team
 
Followup Instructions:
___